US04287125
Preparation of tris-(3,6-dioxaheptyl)-amine:
51.6 g (namely, 0.215 mol) of tris-(2-chloroethyl)-amine hydrochloride were added to the above mixture. The mixture was subsequently heated at the reflux temperature of the 2-methoxyethanol (125° C.) for 12 hours and the solvent was then distilled under reduced pressure. The excess sodium 2-methoxyethanolate was neutralized by adding 11.6 cm3 of aqueous HCl (10 N). The sodium chloride was filtered off and the solution was distilled.

reactant | tris-(2-chloroethyl)-amine hydrochloride | Cl.ClCCN(CCCl)CCCl
reactant | 2-methoxyethanol | COCCO | C3H8O2
product | tris-(3,6-dioxaheptyl)-amine | C(COCCOC)N(CCOCCOC)CCOCCOC | C15H33NO6
